### PR TITLE
[stdlib] add ` ~ NoDup l -> exists a l1 l2 l3, l = l1++a::l2++a::l3`

### PR DESCRIPTION
**Pull request by haansn08**
I want to contribute following lemma for `NoDup` which might be useful:
* `Lemma not_NoDup (l: list A): ~ NoDup l -> exists a l1 l2 l3, l = l1++a::l2++a::l3.`

It uses following additional lemmata:
* `Lemma NoDup_cons_cons a b (H: a <> b) l: NoDup (a::l) -> NoDup (b::l) -> NoDup (a::b::l).`
* `Lemma dup_cons_in l a:  NoDup l -> ~ NoDup (a :: l) -> In a l.`

The results depend on the decidability of the base type `A` and  `NoDup`.

### CODE REVIEW

**Comment by olaure01** [comment]
The core part of `Lemma NoDup_cons_cons a b (H: a <> b) l: NoDup (a::l) -> NoDup (b::l) -> NoDup (a::b::l).` seems to be:
```coq
Lemma NoDup_cons_cons a b (H: a <> b) l:
  ~ In a l -> NoDup (b::l) -> NoDup (a::b::l).
Proof. intros Hnda Hndb; constructor; [ intros [Hin|Hin] | ]; congruence. Qed.
```
which is then mostly: `~ In a (b::l) -> NoDup (b::l) -> NoDup (a::b::l)` thus an instance of `NoDup_cons`.

Concerning `Lemma dup_cons_in l a: NoDup l -> ~ NoDup (a :: l) -> In a l.`, it could be natural to distinguish what depends on decidability of equality and what does not:

-  `NoDup l -> ~ NoDup (a :: l) -> ~~ In a l` which does not require decidability of equality and is a contrapositive of `NoDup_cons`
-  `~~ In a l-> In a l` which is a consequence of the decidability of equality through `Decidable.not_not` and `in_dec`.

File: theories/Lists/ListDec.v [hunk 1]
```diff
@@ -84,6 +84,21 @@ Proof using A dec.
      * right. inversion_clear 1. tauto.
 Qed.
 
+Lemma not_NoDup (l: list A):
+    ~ NoDup l -> exists a l1 l2 l3, l = l1++a::l2++a::l3.
+Proof using A dec.
+intro H0. induction l.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:90]:
```suggestion
intro H0. induction l as [|a l IHl].
```
for name mangling

File: theories/Lists/ListDec.v [hunk 2]
```diff
@@ -84,6 +84,21 @@ Proof using A dec.
...
+- exfalso; apply H0. constructor.
+- destruct (NoDup_dec l) as [H1|H1].
+  + assert (In a l) as H2 by now apply (dup_cons_in dec).
+    destruct (in_split _ _ H2) as (l1 & l2 & ->).
+    now exists a, nil, l1, l2.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:95]:
```suggestion
  + destruct (In_dec a l) as [H2|H2].
    * destruct (in_split _ _ H2) as (l1 & l2 & ->).
      now exists a, nil, l1, l2.
    * now contradiction H0; constructor.
```
possible alternative to the use of `dup_cons_in_dec`.

File: theories/Lists/ListDec.v [hunk 3]
```diff
@@ -84,6 +84,21 @@ Proof using A dec.
...
+  + specialize (IHl H1). destruct IHl as (b & l1 & l2 & l3 & ->).
+    destruct l1 as [|a1 l1].
+    * now exists b,(a::nil),l2,l3.
+    * now exists b,(a::a1::l1),l2,l3.
```
Comment (olaure01) [inline theories/Lists/ListDec.v:99]:
```suggestion
  + destruct (IHl H1) as (b & l1 & l2 & l3 & ->).
    now exists b, (a::l1), l2, l3.
```
slightly more compact proof (in particular there is no need to `destruct l1`)

**Comment by olaure01** [comment]
Note also that related statements not relying on decidability of equality are introduced in #15986.

**Comment by haansn08** [comment]
@olaure01 Thank you for your suggestions! Since your proof doesn't require `NoDup_cons_cons` and `dup_cons_in` anymore I have removed them from this PR.

**Comment by olaure01** [comment]
What about moving `not_NoDup` into the `Dec_in_Prop` section since the weaker hypothesis `decidable_eq A` seems to be sufficient?

Another point, what about doing all this in #16588? this would naturally lead to a single changelog file, etc.

**Comment by haansn08** [comment]
@olaure01 Done and done.
